US07105679B2
3-(2-Hydroxy-4-methoxyphenyl)-7-hydroxy-4-methyl-chromen-2-one
A solution of 3-(2-benzyloxy-3-methoxyphenyl)-7-methoxy-4-methyl-chromen-2-one (0.98 g, 2.44 mmol), prepared as in Example 4, in glacial acetic acid (8 mL) was treated with concentrated hydrochloric acid (3.5 mL) and the mixture stirred and heated to 60° C. for about 20 hours. Reaction monitoring by mass spectrum and thin layer chromatography revealed the presence of the starting material, so additional acetic acid (4 mL) and hydrochloric acid (3 mL) were added and stirring and heating continued for another 20 hours. The reaction mixture was then evaporated to dryness in vacuum and the residue diluted with water. The precipitated crystalline pinkish, solid, crude title compound was isolated by filtration, washed with water and dried. The resulting product was triturated with ether, filtered and washed with additional ether to yield the title product as a solid.

reactant | 3-(2-benzyloxy-3-methoxyphenyl)-7-methoxy-4-methyl-chromen-2-one | 2.44 mmol, 0.98 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1OC)C=1C(OC2=CC(=CC=C2C1C)OC)=O | C25H22O5
reactant | hydrochloric acid | 3.5 mL | Cl | ClH
reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 3-(2-Hydroxy-4-methoxyphenyl)-7-hydroxy-4-methyl-chromen-2-one | OC1=C(C=CC(=C1)OC)C=1C(OC2=CC(=CC=C2C1C)O)=O | C17H14O5
